US06214872B1
To a solution of the crude 1{[3-(tert-butyl-dimethylsilanyloxy)-propyl]-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}cyclopentanecarboxylic acid benzyl ester (279 grams) in methylene chloride (1 L) at room temperature was added boron trifluoride etherate (103 mL, 0.84 mole). After 1 hour, the reaction was quenched by sequential addition of saturated ammonium chloride solution and water. The organic phase was separated, washed with water and brine and dried over magnesium sulfate. Evaporation of the solvent under vacuum provided crude 1-[[4-(4-fluorophenoxy)benzenesulfonyl]-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester as an amber oil (235 grams).

reactant | 1{[3-(tert-butyl-dimethylsilanyloxy)-propyl]-[4-(4-fluorophenoxy)benzenesulfonyl]-amino}cyclopentanecarboxylic acid benzyl ester | 279 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F)CCCO[Si](C)(C)C(C)(C)C | C34H44FNO6SSi
reactant | boron trifluoride etherate | 0.84 mole, 103 mL | B(F)(F)F.CCOCC
solvent | methylene chloride | 1 L | C(Cl)Cl | CH2Cl2
product | 1-[[4-(4-fluorophenoxy)benzenesulfonyl]-(3-hydroxypropyl)amino]cyclopentanecarboxylic acid benzyl ester | 235 grams | C(C1=CC=CC=C1)OC(=O)C1(CCCC1)N(CCCO)S(=O)(=O)C1=CC=C(C=C1)OC1=CC=C(C=C1)F | C28H30FNO6S
